US08106043B2
2-(2-Amino-5-fluoro-4-nitrophenylthio)ethanol:
To a stirred suspension of 2,4-difluoro-5-nitroaniline (100 mg, 0.574 mmol) and potassium carbonate (159 mg, 1.149 mmol) in DMF (1 mL) was added 2-mercaptoethanol (0.081 mL, 1.149 mmol). The resulting mixture was stirred at room temperature for 2 hours. The mixture was then diluted with ethyl acetate and washed with saturated sodium carbonate (3×). The organic phase was dried, filtered, concentrated, and then chromatographed (1:1 EtOAc:hexanes) to give the major product. Ethyl acetate was then used as the eluent to give a minor product. The major product was determined to be the desired product (112 mg, 84%). 1H NMR (DMSO-d6) δ 7.32 (d, J=3.5 Hz, 1H), 7.27 (d, J=10.7 Hz, 1H), 4.39 (s, 2H), 3.85-3.76 (m, 2H), 3.16-3.08 (m, 2H), 2.13-2.05 (m, 1H); ESI-MS (m/z, %): 233 (MH+, 100), 215 (14), 187 (100), 129 (65).

reactant | 2,4-difluoro-5-nitroaniline | 0.574 mmol, 100 mg | FC1=C(N)C=C(C(=C1)F)[N+](=O)[O-] | C6H4F2N2O2
reactant | potassium carbonate | 1.149 mmol, 159 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptoethanol | 1.149 mmol, 0.081 mL | SCCO | C2H6OS
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Amino-5-fluoro-4-nitrophenylthio)ethanol | 112 mg, 84% | NC1=C(C=C(C(=C1)[N+](=O)[O-])F)SCCO | C8H9FN2O3S
